US06586617B1
Synthesis of N,2′-Dimethyl-4′-nitro-p-toluenesulfonanilide (Compound No. 125)
To a suspension of sodium hydride (60%, 0.08 g (2.00 mmol)) in 2.0 ml of DMF, N-methyl-p-toluenesulfonamide (0.37 g (2.00 mmol)) was added at room temperature with stirring. To the resulting mixture, after 15 minutes' stirring at room temperature, 2-fluoro-5-nitrotoluene (0.31 g (2.00 mmol)) was added. The reaction mixture was stirred at room temperature for 2 hours, poured into water and extracted with ethyl acetate. The extract was washed with water and saturated sodium chloride solution, successively, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. Diisopropyl ether was added to the residue and crystals separated was filtered and washed to give 0.22 g (36%) of the title compound as pale yellow crystals.

reactant | sodium hydride | 2.00 mmol, 0.08 g | [H-].[Na+]
reactant | N-methyl-p-toluenesulfonamide | 2.00 mmol, 0.37 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
reactant | 2-fluoro-5-nitrotoluene | 2.00 mmol, 0.31 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | water | O | H2O
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | N,2′-Dimethyl-4′-nitro-p-toluenesulfonanilide | 0.22 g, 36% | CN(C1=C(C=C(C=C1)[N+](=O)[O-])C)S(=O)(=O)C1=CC=C(C=C1)C | C15H16N2O4S
